US06624159B2
N-(4-Chlorobenzyl)-9-(4-morpholinylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxamide [AC.1]
Bromoacetic anhydride (290 mg) is added to a stirred solution of 8-amino-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (Preparation 3, 426 mg) in anhydrous DMF (5.0 mL). After 30 min, triethylamine (100 mg) and additional bromoacetic anhydride (100 mg) are added. After 1 h, triethylamine (300 mg) is added and the solution is heated briefly at 80° C. Methanol (8 mL) is added and the resulting precipitate is filtered off, washed with water and dried to afford 262 mg of the title compound as a DMF solvate. Physical characteristics: 1H NMR (DMSO-d6) δ2.37, 2.73, 2.89, 3.53, 3.57, 4.56, 5.11, 7.23, 7.35, 7.40, 7.72, 7.95, 8.72, 10.35, 11.2.

reactant | Bromoacetic anhydride | 290 mg | BrCC(=O)OC(CBr)=O | C4H4Br2O3
reactant | 8-amino-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 426 mg | NC=1C=C(C=C2C(=C(C=NC12)C(=O)NCC1=CC=C(C=C1)Cl)O)CN1CCOCC1 | C22H23ClN4O3
reactant | triethylamine | 100 mg | C(C)N(CC)CC | C6H15N
reactant | bromoacetic anhydride | 100 mg | BrCC(=O)OC(CBr)=O | C4H4Br2O3
reactant | triethylamine | 300 mg | C(C)N(CC)CC | C6H15N
reactant | Methanol | 8 mL | CO | CH4O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-9-(4-morpholinylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxamide | 262 mg | ClC1=CC=C(CNC(=O)C=2C(C=3C=4N(CC(NC4C=C(C3)CN3CCOCC3)=O)C2)=O)C=C1 | C24H23ClN4O4
